US04970213
The reaction is carried out under conditions analogous to Reference Example 5 but starting from 4 g of 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid and 6.2 g of 1-(2-hydroxyethyl)-piperazine in 40 cm3 of pyridine The reaction mixture is heated for 22 hours at a temperature close to 115° C. The pure product is isolated after recrystallizing 3 times from 3 times 200 cm3 of ethanol containing 10% of dimethylformamide each time. 0.94 g of 1-cyclopropyl-7-fluoro-8-[4-(2-hydroxyethyl)-1-piperazinyl]-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 255° C.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 4 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2CC2)C1)F | C16H10ClFN2O3
reactant | 1-(2-hydroxyethyl)-piperazine | 6.2 g | OCCN1CCNCC1 | C6H14N2O
solvent | pyridine | 40 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-7-fluoro-8-[4-(2-hydroxyethyl)-1-piperazinyl]-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 0.94 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CCN(CC3)CCO)=O)C(=O)O | C22H23FN4O4
